US05998436
Synthesis of ethyl 8-bromo-1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 5 ml of chloroform solution of ethyl 3-ethoxy-2-(3-bromo-2,4,5-trifluorobenzoyl)acrylate prepared from 1.32 g of ethyl 3-bromo-2,4,5-trifluorobenzoylacetate by normal process was added 2-amino-6-(t-butylamino)-3,5-difluoropyridine until completion of the conversion into the aminoacrylate form was confirmed by monitoring the reaction by TLC. The solution was concentrated under reduced pressure to obtain yellow solid residue. To this residue were added 1.2 g of anhydrous potassium carbonate and 2 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 15 minutes and allowed to cool. The solution was separated by adding 30 ml of chloroform and 300 ml of distilled water, and the chloroform layer was washed twice with 300 ml of distilled water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and allowed to stand. The precipitate was collected by filtration, washed with ethanol and diisopropylether successively to obtain 1.41 g of the title compound as a colorless powder.

reactant | ethyl 3-ethoxy-2-(3-bromo-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Br)F)=O | C14H12BrF3O4
reactant | ethyl 3-bromo-2,4,5-trifluorobenzoylacetate | 1.32 g | BrC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8BrF3O3
reactant | 2-amino-6-(t-butylamino)-3,5-difluoropyridine | NC1=NC(=C(C=C1F)F)NC(C)(C)C | C9H13F2N3
reactant | aminoacrylate | NC(C(=O)[O-])=C
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-bromo-1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.41 g | BrC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC(C)(C)C)C(=O)OCC)=O)F)F | C21H18BrF4N3O3
